US07700599B2
1,1-Dimethylethyl (2S)-4-({4-[({6-[(4-fluorophenyl)amino]-3-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D58)
BINAP (0.041 g, 0.0654 mmol), cesium carbonate (0.213 g, 0.654 mmol) and palladium acetate (0.009 g, 0.0436 mmol) were combined in dioxane (1 mL) and sonicated for 1 h under an argon atmosphere. To the red mixture was added 4-fluoroaniline (0.053 g, 0.479 mmol) and 1,1-dimethylethyl (2S)-4-({4-[[(6-chloro-3-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D54) (0.2 g, 0.436 mmol). The mixture was stirred at 60° C. for 1 h, the solvent was removed under vacuum and the residues partitioned between EtOAc and water. The EtOAc layer was dried and concentrated. The crude product was purified by chromatography. Elution with a 0-70% EtOAc/petroleum ether gradient yielded the title compound as a pale yellow oil (0.110 g). δH (CDCl3, 400 MHz) 8.10 (1H, m), 7.40 (1H, dd), 7.25 (3H, m), 7.02 (4H, m), 6.92 (1H, s), 6.43 (1H, d), 4.18 (1H, br.s), 3.80 (1H, d), 3.48 (3H, s), 3.48 (1H, d), 3.36 (1H, d), 3.10 (1H, td), 2.70 (1H, d), 2.52 (1H, d), 2.10 (1H, m), 1.98 (1H, m), 1.85 (1H, br.s), 1.45 (9H, s), 1.20 (3H, d). MS (ES): MH+ 534.3.

reactant | BINAP | 0.0654 mmol, 0.041 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.654 mmol, 0.213 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-fluoroaniline | 0.479 mmol, 0.053 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 1,1-dimethylethyl (2S)-4-({4-[[(6-chloro-3-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | 0.436 mmol, 0.2 g | ClC1=CC=C(C=N1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C24H31ClN4O3
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.0436 mmol, 0.009 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1,1-Dimethylethyl (2S)-4-({4-[({6-[(4-fluorophenyl)amino]-3-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | 0.110 g | FC1=CC=C(C=C1)NC1=CC=C(C=N1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C30H36FN5O3
